US08247401B2
Step B: tert-butyl 3-(1-amino-2,2,2-trifluoroethyl)-5-bromobenzoate
To a solution of tert-butyl 3-bromo-5-(trifluoroacetyl)benzoate (3.0 g, 8.5 mmol) in toluene (mL) was slowly added lithium bis(trimethylsilyl)amide (1.0 M in toluene; 25.5 mL, 25.5 mmol). The reaction was stirred at ambient temperature. After 1 h, the reaction was checked by TLC for disappearance of tert-butyl 3-bromo-5-(trifluoroacetyl)benzoate. Borane dimethyl sulfide complex (2.0 M in toluene; 25.5 mL, 51.0 mmol) was added and the mixture was stirred at ambient temperature. After 1 h, aqueous NaOH (1.0 M) was added slowly to quench the reaction. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→70% hexanes/ethyl acetate) gave the title compound (1.48 g).

reactant | tert-butyl 3-bromo-5-(trifluoroacetyl)benzoate | 8.5 mmol, 3.0 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C(C(F)(F)F)=O | C13H12BrF3O3
reactant | lithium bis(trimethylsilyl)amide | 25.5 mmol, 1.0 M, 25.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Borane dimethyl sulfide | 51.0 mmol, 2.0 M, 25.5 mL | CSC.B
reactant | NaOH | 1.0 M | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(1-amino-2,2,2-trifluoroethyl)-5-bromobenzoate | 1.48 g | NC(C(F)(F)F)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)Br | C13H15BrF3NO2
